### PR TITLE
feat: equivalence of iterators

### PR DESCRIPTION
**Pull request by datokrat**
This PR provides the means to reason about "equivalent" iterators. Simply speaking, two iterators are equivalent if they behave the same as long as consumers do not introspect their states.

### CODE REVIEW

**Comment by ghost** [comment]
Mathlib CI status ([docs](https://leanprover-community.github.io/contribute/tags_and_branches.html)):
- ❗ Batteries/Mathlib CI will not be attempted unless your PR branches off the `nightly-with-mathlib` branch. Try `git rebase 96b81f3cc143d7925c68f4c0f50ff9628befc1e8 --onto 72141b05fd9a3328c1e5d99211dc4da4495cbd42`. You can force Mathlib CI using the `force-mathlib-ci` label. (2025-05-30 08:14:50)
- ✅ Mathlib branch [lean-pr-testing-8545](https://github.com/leanprover-community/mathlib4/compare/nightly-testing...lean-pr-testing-8545) has successfully built against this PR. (2025-06-03 15:45:08) [View Log](https://github.com/leanprover-community/mathlib4/actions/runs/15420862237)
- ✅ Mathlib branch [lean-pr-testing-8545](https://github.com/leanprover-community/mathlib4/compare/nightly-testing...lean-pr-testing-8545) has successfully built against this PR. (2025-06-03 18:01:53) [View Log](https://github.com/leanprover-community/mathlib4/actions/runs/15423611514)
- ❗ Batteries/Mathlib CI will not be attempted unless your PR branches off the `nightly-with-mathlib` branch. Try `git rebase ba847d41f173d7b82dcea9689f61ed7439ebbfae --onto c12159b51982221bdd66f0c5997f85e1f9d91772`. You can force Mathlib CI using the `force-mathlib-ci` label. (2025-06-05 11:50:35)

File: src/Std/Data/Iterators/Lemmas/Equivalence/HetT.lean [hunk 1]
```diff
@@ -0,0 +1,482 @@
...
+  inner : (ComputableSmall.choose α).Target
+
+def USquashOrUnit (α : Type v) := open Classical in if _ : Small.{u} α then USquash.{u} α else PUnit
+
+theorem uSquash_eq_uSquashOrUnit {α : Type v} [Small.{u} α] : USquash.{u} α = USquashOrUnit.{u} α := by
+  rw [USquashOrUnit, dif_pos]
+
+noncomputable def USquash.deflate [small : Small.{u} α] (x : α) : USquash.{u} α := USquash.mk' (ComputableSmall.choose α |>.deflate x)
+
+noncomputable def USquash.inflate [small : Small.{u} α] (x : USquash.{u} α) : α := ComputableSmall.choose α |>.inflate x.inner
```
[the remark this answers is not in the document]
Comment (datokrat) [reply src/Std/Data/Iterators/Lemmas/Equivalence/HetT.lean:47]: Ah, I see. `Classical.choose` doesn't provide a way to determine which value it actually has. However, if something goes wrong with `unsafeCast`, I guess there would be a high chance that the return value will be nondeterministic due to memory corruption.

[the remark this answers is not in the document]
Comment (Rob23oba) [reply src/Std/Data/Iterators/Lemmas/Equivalence/HetT.lean:47]: > Why do you think that Classical.choose would make it more probably sound?

Using `Classical.choose` means that you can't prove anymore about the nature of these functions than the properties that are in `ComputableSmall`. Since there could be a type with the same internal representation which uses compiler no-ops we can then pretend like that's the one `Classical.choose` uses without anyone being able to prove otherwise. But again, if you say this is unnecessary, then I guess there's nothing to complain about.

File: src/Std/Data/Iterators/Lemmas/Equivalence/Basic.lean [hunk 2]
```diff
@@ -0,0 +1,279 @@
...
+  bit.inst
+
+private def quotOfQuot {R S : α → α → Prop} (h : ∀ a b, R a b → S a b) : Quot R → Quot S :=
+  Quot.lift (Quot.mk S) (fun _ _ hR => Quot.sound (h _ _ hR))
+
+private theorem quotMk_eq_quotOfQuot_comp {R S : α → α → Prop} (h : ∀ a b, R a b → S a b) :
+    Quot.mk S = (quotOfQuot h) ∘ Quot.mk R :=
+  rfl
+
+def quotMk_quot_eq_quot_eq_quotOfQuot_comp (R : α → α → Prop) :
```
Comment (Rob23oba) [inline src/Std/Data/Iterators/Lemmas/Equivalence/Basic.lean]: Should probably be `private theorem` instead of `def`

Comment (datokrat) [reply src/Std/Data/Iterators/Lemmas/Equivalence/Basic.lean]: Definitely!

File: src/Std/Data/Iterators/Lemmas/Consumers/Collect.lean [hunk 3]
```diff
@@ -48,6 +48,12 @@ theorem Iter.toArray_toList {α β} [Iterator α Id β] [Finite α Id] [Iterator
     it.toList.toArray = it.toArray := by
   simp [toArray_eq_toArray_toIterM, toList_eq_toList_toIterM, ← IterM.toArray_toList]
 
+theorem Iter.reverse_toListRev [Iterator α Id β] [Finite α Id]
```
Comment (TwoFX) [inline src/Std/Data/Iterators/Lemmas/Consumers/Collect.lean:52]: Probably a good `simp` lemma?

File: src/Std/Data/Iterators/Lemmas/Equivalence/HetT.lean [hunk 4]
```diff
@@ -0,0 +1,487 @@
...
+  `PostconditionT`.
+
+This monad is noncomputable and is merely a vehicle for more convenient proofs, especially proofs
+about the equivalence of iterators, because it avoids universe issues and spares users the work
+to handle the postconditions manually.
+
+Caution: Just like `PostconditionT`, this is not a lawful monad transformer.
+To lift from `m` to `HetT m`, use `HetT.lift`.
+
+Because this monad is fundamentally universe-polymorphic, It is recommended for consistency to
```
Comment (TwoFX) [inline src/Std/Data/Iterators/Lemmas/Equivalence/HetT.lean]:
```suggestion
Because this monad is fundamentally universe-polymorphic, it is recommended for consistency to
```

File: src/Std/Data/Iterators/Lemmas/Equivalence/HetT.lean [hunk 5]
```diff
@@ -0,0 +1,487 @@
...
+always use the methods `HetT.pure`, `HetT.map` and `HetT.bind` instead of the homogeneous versions
+`Pure.pure`, `Functor.map` and `Bind.bind`.
+-/
+structure HetT (m : Type w → Type w') (α : Type v) where
+  /--
```
Comment (TwoFX) [inline src/Std/Data/Iterators/Lemmas/Equivalence/HetT.lean:168]: ?

File: src/Std/Data/Iterators/Lemmas/Equivalence/Basic.lean [hunk 6]
```diff
@@ -0,0 +1,279 @@
...
+
+Two bundled iterators are equivalent if they have the same `Iterator.IsPlausibleStep` relation
+and their step functions are the same *up to equivalence of the successor iterators*. This
+coinductive definition captures the idea that the only relevant feature of an iterator is its step
+function. Other information retrievable from the iterator -- for example, whether it is a list
+iterator or an array iterator -- is totally irrelevant for the equivalence judgement.
+-/
+def BundledIterM.Equiv (m : Type w → Type w') (β : Type w) [Monad m] [LawfulMonad m]
+    (ita itb : BundledIterM m β) : Prop :=
+    (BundledIterM.step ita).map (IterStep.mapIterator (Quot.mk (BundledIterM.Equiv m β))) =
```
Comment (TwoFX) [inline src/Std/Data/Iterators/Lemmas/Equivalence/Basic.lean]: Indentation

File: src/Std/Data/Iterators/Lemmas/Equivalence/StepCongr.lean [hunk 7]
```diff
@@ -0,0 +1,223 @@
+/-
+Copyright (c) 2025 Lean FRO, LLC. All rights reserved.
+Released under Apache 2.0 license as described in the file LICENSE.
+Authors: Paul Reichert
+-/
+prelude
+import Std.Data.Iterators.Lemmas.Equivalence.Basic
+
+/-!
+This module proves under that the step functions of
```
Comment (TwoFX) [inline src/Std/Data/Iterators/Lemmas/Equivalence/StepCongr.lean]: Grammar
